US04629797
Ethyl 2-(4-bromo-3-(tetrahydropyran-2-yloxy)butanamido)acetate
To a solution of 1 g ethyl 2-(4-bromo-3-hydroxybutanamido)acetate in 30 ml methylene chloride are added 100 mg pyridinium p-toluenesulphonate and 1 ml dihydropyran. Stirring is continued for 3 h at ambient temperature, the solvent is evaporated in vacuo and the residue chromatographed on silica, eluting with ether. A pale straw-coloured oil is obtained in 91% yield, Rf 0.5 (silica gel plates, thickness 0.25 mm eluent ethyl acetate).

reactant | ethyl 2-(4-bromo-3-hydroxybutanamido)acetate | 1 g | BrCC(CC(=O)NCC(=O)OCC)O | C8H14BrNO4
reactant | pyridinium p-toluenesulphonate | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | dihydropyran | 1 ml | O1CCCC=C1 | C5H8O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(4-bromo-3-(tetrahydropyran-2-yloxy)butanamido)acetate | 91% yield | BrCC(CC(=O)NCC(=O)OCC)OC1OCCCC1 | C13H22BrNO5
